US04254260
To a suspension of 2-aminothiazol-4-ylacetic acid (1.2 g.) in dried methylene chloride (75 ml.) was introduced dried hydrogen chloride gas under ice-cooling and stirring to produce 2-aminothiazol-4-ylacetic acid hydrochloride, and to the mixture was gradually added phosphorus pentachloride (4.0 g.) under ice-cooling and stirring and the mixture was stirred for 1 to 2 hours at room temperature. After removal of methylene chloride from the mixture, to the residue was added dried benzene and then the solvent was distilled off. The residue was dissolved in dried acetone (20 ml.), and the solution was dropwise added to a solution of 3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-7-amino-3-cephem-4-carboxylic acid (1.8 g.) and sodium bicarbonate (2.1 g.) in a mixture of acetone (25 ml.) and water (25 ml.) under ice-cooling and stirring while the mixture was kept to pH 7.5 to 8.5 with triethylamine. The mixture was further stirred for 20 minutes, and acetone was removed at low temperature.

reactant | 2-aminothiazol-4-ylacetic acid | 1.2 g | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-aminothiazol-4-ylacetic acid hydrochloride | Cl.NC=1SC=C(N1)CC(=O)O | InChI=1S/C5H6N2O2S.ClH/c6-5-7-3(2-10-5)1-4(8)9;/h2H,1H2,(H2,6,7)(H,8,9);1H
